US07700552B2
1-(2-Nitro-4-trifluoromethyl-phenyl)-1H-pyrazole (73)
1-Fluoro-2-nitro-4-trifluoromethyl-benzene (209 mg, 1 mmol) was dissolved in EtOH (4.5 mL) in a 5 mL microwave reaction vessel. 1H-pyrazole (83.5 mg, 1.2 mmol), DIPEA (329 μL, 2 mmol) and a stirrbar was added followed by sealing of the reaction vessel. The reaction mixture was then heated in the microwave for 30 min at 120° C. The reaction was concentrated in vacuo and the residue purified by flash chromatography (Silica, Hexane: EtOAc) to afford the title compound (206 mg, 81%). LC/MS>95%, m/z (ESI+)=258 (MH+).

reactant | 1-Fluoro-2-nitro-4-trifluoromethyl-benzene | 1 mmol, 209 mg | FC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C7H3F4NO2
reactant | 1H-pyrazole | 1.2 mmol, 83.5 mg | N1N=CC=C1 | C3H4N2
reactant | DIPEA | 2 mmol, 329 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | EtOH | 4.5 mL | CCO | C2H6O
product | 1-(2-Nitro-4-trifluoromethyl-phenyl)-1H-pyrazole | 206 mg, 81% | [N+](=O)([O-])C1=C(C=CC(=C1)C(F)(F)F)N1N=CC=C1 | C10H6F3N3O2
